US07214835B2
A tetrahydrofuran (50 ml) solution of 2-ethoxy-1,7,8-trifluoronaphthalene (9.4 g) was cooled to −60° C. Then, a 1.58 M butyllithium/hexane solution (47 ml) was added dropwise to this solution, followed by stirring for 2 hours. A tetrahydrofuran (50 ml) solution of trans-4-(trans-4-butylcyclohexyl)cyclohexylacetoaldehyde (13.2 g) was added dropwise at −50° C. . After stirring for 2 hours, the reaction temperature was increased to 0° C. 10% hydrochloric acid was added to the reaction solution. The reaction solution was extracted with ethyl acetate, washed with brine, and concentrated. The residue was recrystallized from ethyl acetate, and 7-ethoxy-3-[2-[trans-4-(trans-4-butylcyclohexyl)cyclohexyl]-1-hydroxyethyl]-1,2,8-trifluoronaphthalene was obtained.

reactant | 2-ethoxy-1,7,8-trifluoronaphthalene | 9.4 g | C(C)OC1=C(C2=C(C(=CC=C2C=C1)F)F)F | C12H9F3O
reactant | butyllithium hexane | 1.58 M, 47 ml | C(CCC)[Li].CCCCCC
reactant | trans-4-(trans-4-butylcyclohexyl)cyclohexylacetoaldehyde | 13.2 g | C(CCC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CC=O | C18H32O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 7-ethoxy-3-[2-[trans-4-(trans-4-butylcyclohexyl)cyclohexyl]-1-hydroxyethyl]-1,2,8-trifluoronaphthalene | C(C)OC1=CC=C2C=C(C(=C(C2=C1F)F)F)C(C[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCCC)O | C30H41F3O2
